US08404731B2
5-{3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (59 mg, 0.1 mmol) was treated as described in general procedure G using 5-methyl-1-hexenylboronic acid (43 mg, 0.3 mmol) to give 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(5-methyl-hex-1-enyl)-benzyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 59 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 5-methyl-1-hexenylboronic acid | 0.3 mmol, 43 mg | CC(CCC=CB(O)O)C | C7H15BO2
product | 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(5-methyl-hex-1-enyl)-benzyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C=1C=C(C=CC1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C=CCCC(C)C | C31H30Cl2N4O3S
